### PR TITLE
[Merged by Bors] - feat: port Topology.Algebra.Module.Basic

### PR DESCRIPTION
**Pull request by mcdoll**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by urkud** [comment]
Hi, I already fixed about 30% of this file while I had no Internet connection. Are you working on it now or should I push my fixes to your branch?

File: Mathlib/Topology/Algebra/Module/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,2752 @@
+/-
+Copyright (c) 2019 Sébastien Gouëzel. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Jan-David Salchow, Sébastien Gouëzel, Jean Lo, Yury Kudryashov, Frédéric Dupuis,
+  Heather Macbeth
+
+! This file was ported from Lean 3 source module topology.algebra.module.basic
+! leanprover-community/mathlib commit 9a59dcb7a2d06bf55da57b9030169219980660cd
```
Comment (eric-wieser) [inline Mathlib/Topology/Algebra/Module/Basic.lean:8]: This is out of date, the latest version is https://github.com/leanprover-community/mathlib/commit/f430769b562e0cedef59ee1ed968d67e0e0c86ba

(and the current version is not ready to port)

Comment (urkud) [reply Mathlib/Topology/Algebra/Module/Basic.lean:8]: Yes, I forward-ported leanprover-community/mathlib#18608 in my branch and was going to do `git reset` once `mathport` has a new version.

File: Mathlib/Topology/Algebra/Module/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,2695 @@
...
+#align submodule.topological_closure.complete_space Submodule.topologicalClosure.completeSpace
+
+/-- A maximal proper subspace of a topological module (i.e a `Submodule` satisfying `IsCoatom`)
+is either closed or dense. -/
+theorem Submodule.isClosed_or_dense_of_isCoatom (s : Submodule R M) (hs : IsCoatom s) :
+    IsClosed (s : Set M) ∨ Dense (s : Set M) := by
+  refine (hs.le_iff.mp s.le_topologicalClosure).symm.imp ?_ dense_iff_topologicalClosure_eq_top.mpr
+  exact fun h ↦ h ▸ isClosed_closure
+#align submodule.is_closed_or_dense_of_is_coatom Submodule.isClosed_or_dense_of_isCoatom
+
```
Comment (ChrisHughes24) [inline Mathlib/Topology/Algebra/Module/Basic.lean:212]: The diff is showing that `isClosed_or_dense_ker` has been deleted here, but this lemma is not in Lean3. Has the Lean3 file changed since the mathport output?

Comment (Parcly-Taxel) [reply Mathlib/Topology/Algebra/Module/Basic.lean:212]: Yes, `is_closed_or_dense_ker` was yeeted to `topology/algebra/module/simple` in leanprover-community/mathlib#18608.

File: Mathlib/Topology/Algebra/Module/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,2695 @@
...
+#align submodule.topological_add_group Submodule.topologicalAddGroup
+
+end Submodule
+
+section closure
+
+variable {R R' : Type u} {M M' : Type v} [Semiring R] [Ring R']
+  [TopologicalSpace M] [AddCommMonoid M] [TopologicalSpace M'] [AddCommGroup M'] [Module R M]
+  [ContinuousConstSMul R M] [Module R' M'] [ContinuousConstSMul R' M']
+
```
[the remark this answers is not in the document]
Comment (Parcly-Taxel) [reply Mathlib/Topology/Algebra/Module/Basic.lean:140]: What's happened is that @urkud's initial fix of the file (which @mcdoll then merged at the beginning) deleted the two `closure_smul_self_*` theorems and added the two new `smul_closure` theorems in their place. I suspect this is because `closure_smul_self_subset` runs into an intractable problem at _its_ start: the instance `TopologicalSpace (R × M)` can't be synthesised. Is replacing theorems to ease Lean's task OK?

[the remark this answers is not in the document]
Comment (urkud) [reply Mathlib/Topology/Algebra/Module/Basic.lean:140]: I've also generalized some lemmas from `[ContinuousSMul]`  to `[ContinuousConstSMul]`. I'll backport these changes to Lean 3 tomorrow. I was going to do it earlier and forgot. Sorry about this.

**Comment by urkud** [comment]
@ChrisHughes24 Lint fails without `nolint simpNF`.

**Comment by Parcly-Taxel** [comment]
> Lint fails without `nolint simpNF`.

@urkud You can now get to work addressing the remaining review comments.

File: Mathlib/Topology/Algebra/Module/Basic.lean [hunk 4]
```diff
@@ -142,12 +142,10 @@ theorem Submodule.mapsTo_smul_closure (s : Submodule R M) (c : R) :
     Set.MapsTo (c • ·) (closure s : Set M) (closure s) :=
   have : Set.MapsTo (c • ·) (s : Set M) s := fun _ h ↦ s.smul_mem c h
   this.closure (continuous_const_smul c)
-#align submodule.maps_to_smul_closure Submodule.mapsTo_smul_closure
```
Comment (gebner) [inline Mathlib/Topology/Algebra/Module/Basic.lean]: Please don't remove the `#align` statements.

**Comment by mattrobball** [comment]
Also removed the `nolint simpNF`'s. The `simpNF` error does not occur with `etaExperiment` enabled at the start of the file.

File: Mathlib/Topology/Algebra/Module/Basic.lean (hunk 4 above)
Comment (gebner) [reply Mathlib/Topology/Algebra/Module/Basic.lean]: Oh, my bad.  I didn't realize they were removed from mathlib3 as well: https://github.com/leanprover-community/mathlib4/pull/2983#discussion_r1148313871

**Comment by mattrobball** [comment]
This should be a ready for review now.

**Comment by ChrisHughes24** [comment]
bors merge
